US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-benzyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (832 mg) was dissolved in methanol (20 ml), sodium bicarbonate (445 mg) and benzyl bromide (906 mg) were added, the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure, the residue, after addition of water, was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, the solvent was concentrated under reduced pressure, the crystals were washed with isopropyl ether, to thereby obtain 980 mg of the titled compound (Yield: 86.9%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 832 mg | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
reactant | sodium bicarbonate | 445 mg | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 906 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 20 ml | CO | CH4O
product | 2-oxo-3-tert-butoxycarbonylamino-5-benzyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 980 mg, Yield: 86.9% | O=C1C(CN(C2=C(N1)C=CC=C2)CC2=CC=CC=C2)NC(=O)OC(C)(C)C | C21H25N3O3
